US06387908B1
To a solution of N-[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]phthalimide (30.4 g, 94.0 mmol.) in toluene (380 mL) were successively added methyl p-toluenesulfonate (19.2 g, 103 mmol.) and 60% sodium hydride (4.13 g, 103 mmol.). The resulting mixture was heated under reflux for 18 hours under stirring, cooled to room temperature, successively washed with water and aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by middle pressure column chromatography (n-hexane/ethyl acetate=5/1), to give N-[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]phthalimide as a white crystalline product (25.6 g, yield: 81%).

reactant | N-[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]phthalimide | 94.0 mmol, 30.4 g | O[C@H](C1=CC=CC=C1)[C@H](CC(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO3
reactant | methyl p-toluenesulfonate | 103 mmol, 19.2 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | sodium hydride | 103 mmol, 4.13 g | [H-].[Na+]
solvent | toluene | 380 mL | C1(=CC=CC=C1)C | C7H8
product | N-[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]phthalimide | CO[C@H](C1=CC=CC=C1)[C@H](CC(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C21H23NO3
